US06593344B1
N-{4-[4-(Hydroxy-diphenylmethyl)-piperidin-1-yl]-butyl}-2-(pyridin-3-yloxy)-acetamide (Substance 36)
1.8 g (11.6 mmol) (pyridin-3-yloxy)-acetic acid and 1.7 ml (12.2 mmol) TEA are suspended in 80 ml absolute dichlormethane and cooled to ca. 0° C. under moisture exclusion. 2.1 g (13.7 mmol) 88% HOBT and 2.7 g (14.1 mmol) EDC are added and the mixture is stirred for 30 min under ice-cooling. 4,. g (13.0 mmol) 4-[4-(hydroxy-diphenylmehyl)-piperidin-1-yl]-butylamine are added and the mixture is stirred overnight without cooling. Subsequently, the batch is washed with 50 ml 1M sodium hydroxide solution and twice each with 30 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH/NH4OH (90/10/0 to 90/10/1): Yield 2.0 g (34%) of a colorless resin.

reactant | (pyridin-3-yloxy)-acetic acid | 11.6 mmol, 1.8 g | N1=CC(=CC=C1)OCC(=O)O | C7H7NO3
reactant | HOBT | 13.7 mmol, 2.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 14.1 mmol, 2.7 g
reactant | 4-[4-(hydroxy-diphenylmehyl)-piperidin-1-yl]-butylamine | 13.0 mmol | OC(C1CCN(CC1)CCCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H30N2O
solvent | dichlormethane | 80 ml | ClCCl | CH2Cl2
product | N-{4-[4-(Hydroxy-diphenylmethyl)-piperidin-1-yl]-butyl}-2-(pyridin-3-yloxy)-acetamide | OC(C1CCN(CC1)CCCCNC(COC=1C=NC=CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H35N3O3
